US09359362B2
Ethyl 7-(4-cyanophenyl)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate
Under argon, ethyl 2-amino-7-(4-cyanophenyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate (5.0 g, 15.4 mmol) and phthalic anhydride (3.4 g, 23.1 mmol, 1.5 eq.) were dissolved in a mixture of toluene (400 ml) and pyridine (200 ml), triethylamine (42 μl, 0.3 mmol, 0.2 eq.) was added and the mixture was heated under reflux for 12 h. The reaction mixture was then concentrated under reduced pressure. The residue was taken up in ethyl acetate (600 ml) and extracted twice with saturated sodium bicarbonate solution (150 ml each). The organic phase was washed with saturated sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure. The crude product was suspended in ethanol (100 ml) and stirred for 12 h, and the solid was then filtered off and dried under high vacuum. This gave 6.67 g (95% of theory) of the title compound.

reactant | ethyl 2-amino-7-(4-cyanophenyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | 15.4 mmol, 5.0 g | NC1=NN2C(NC(=C(C2C2=CC=C(C=C2)C#N)C(=O)OCC)C)=N1 | C16H16N6O2
reactant | phthalic anhydride | 23.1 mmol, 3.4 g, 1.5 eq. | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | triethylamine | 0.3 mmol, 42 μl, 0.2 eq. | C(C)N(CC)CC | C6H15N
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 7-(4-cyanophenyl)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)N2C(C1=CC=CC=C1C2=O)=O)C)C(=O)OCC | C24H18N6O4
